US07687491B2
(24e) (4-Bromo-2-chlorophenyl)methanol
To a solution of 4-bromo-2-chlorobenzoic acid (3.1 g, 13.2 mmol) in tetrahydrofuran (30 ml) was added a 1.0 M solution of borane-tetrahydrofuran complex in tetrahydrofuran (13.8 ml, 13.8 mmol) at 0° C. with stirring, and the resulting mixture was stirred at the same temperature for 20 minutes, and after raising the reaction temperature to room temperature, the reaction mixture was furthermore stirred for 4 hours. After stirring, water (10 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate (50 ml) and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over sodium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:9 to 7:3) as the eluent to afford the title compound (2.8 g) in a yield of 97% as a white crystalline solid.

reactant | 4-bromo-2-chlorobenzoic acid | 13.2 mmol, 3.1 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | water | 10 ml | O | H2O
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13.8 mmol, 13.8 ml | O1CCCC1 | C4H8O
product | (4-Bromo-2-chlorophenyl)methanol | yield of 97% | BrC1=CC(=C(C=C1)CO)Cl | C7H6BrClO
